US09315475B2
Step 2. (R)-Dimethyl [2-oxo-2-(2-oxo-4-phenyloxazolidin-3-yl)ethyl]phosphonate
A solution of (R)-3-(2-bromoacetyl)-4-phenyloxazolidin-2-one (175 g, 616 mmol) and trimethyl phosphite (83.3 g, 671 mmol) in toluene (870 mL) was heated to reflux for 16 h. The reaction mixture was cooled to ambient temperature and the solvent was concentrated under reduced pressure to give a brown colored gum, which was triturated with 1:1 CH2Cl2 and hexanes (250 mL) to provide a brown solid. The solid was collected by filtration under reduced pressure and washed with CH2Cl2 (50 mL) to provide the product (98.8 g) as light brown solid.

reactant | (R)-3-(2-bromoacetyl)-4-phenyloxazolidin-2-one | 616 mmol, 175 g | BrCC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C11H10BrNO3
reactant | trimethyl phosphite | 671 mmol, 83.3 g | P(OC)(OC)OC | C3H9O3P
solvent | toluene | 870 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-Dimethyl [2-oxo-2-(2-oxo-4-phenyloxazolidin-3-yl)ethyl]phosphonate | 98.8 g | O=C(CP(OC)(OC)=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C13H16NO6P
